US05721193
A mixture of methyl 4-bromo-2-methylbenzoate (45 g), N-bromosuccinimide (38.4 g) and dichloromethane was heated at reflux under irradiation from two 120 Watt tungsten lamps for five hours. The mixture was then cooled to -15° C. and filtered and the filtrate was evaporated. The residue was recrystallised from cyclohexane to give methyl 4-bromo-2-(bromomethyl)benzoate as pale yellow crystals (39.9 g), m.p. 79.2° C.

reactant | methyl 4-bromo-2-methylbenzoate | 45 g | BrC1=CC(=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | N-bromosuccinimide | 38.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | tungsten | [W] | W
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 4-bromo-2-(bromomethyl)benzoate | 39.9 g | BrC1=CC(=C(C(=O)OC)C=C1)CBr | C9H8Br2O2
